US03986860
4-Benzyloxymethyl-2,4-dimethyl-1,3-dioxolan-2-carboxamide
Ethyl 4-benzyloxymethyl-2,4-dimethyl-1,3-dioxolan-2-carboxylate (5.0 grams) and concentrated aqueous ammonia solution (50 milliliters, 0.880 S.G.) were stirred together at room temperature for 3 days. The white solid formed was filtered off, washed with water and recrystallised from cyclohexane to give the desired product as an isomer mixture melting point 72°-92° C.

reactant | Ethyl 4-benzyloxymethyl-2,4-dimethyl-1,3-dioxolan-2-carboxylate | 5.0 grams | C(C1=CC=CC=C1)OCC1(OC(OC1)(C(=O)OCC)C)C | C16H22O5
reactant | ammonia | 50 milliliters | N | H3N
product | 4-Benzyloxymethyl-2,4-dimethyl-1,3-dioxolan-2-carboxamide | C(C1=CC=CC=C1)OCC1(OC(OC1)(C(=O)N)C)C | C14H19NO4
